US07612060B2
Step (v): Synthesis of (R)-2-((1-((R)-6-(piperidin-1-ylmethyl)-1,2,3,4-tetrahydro-naphthalen-1-yl)-1H-1,2,3-triazol-4-yl)methyl)-1-tosyl-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one
To a solution of (R)-2-(prop-2-ynyl)-1-tosyl-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one (210 mg, 0.615 mmol) and (R)-1-((5-azido-5,6,7,8-tetrahydronaphthalen-2-yl)methyl)piperidine (183 mg, 0.677 mmol) in dioxane (3 mL) and t-BuOH (4 mL) was added a solution of copper(2+) sulfate, pentahydrate (43.0 μl, 0.615 mmol) in water (1 mL), followed by a solution of (+)-sodium 1-ascorbate (122 mg, 615 μmol). The resulting solution was stirred at room temperature overnight. The reaction was diluted with EtOAc, washed with brine, dried over Na2SO4, and evaporated to dryness. Flash chromatography (SiO2, EtOAc to EtOAc/2M NH3 in MeOH=100:5 to 100:10 to 100:15) of the residue afforded the title compound as a white solid.

reactant | (R)-2-(prop-2-ynyl)-1-tosyl-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one | 0.615 mmol, 210 mg | C(C#C)[C@H]1N(C2=C(NC1=O)N=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H15N3O3S
reactant | (R)-1-((5-azido-5,6,7,8-tetrahydronaphthalen-2-yl)methyl)piperidine | 0.677 mmol, 183 mg | N(=[N+]=[N-])[C@H]1C=2C=CC(=CC2CCC1)CN1CCCCC1 | C16H22N4
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | t-BuOH | 4 mL | CC(C)(C)O | C4H10O
solvent | water | 1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(2+) sulfate, pentahydrate | 0.615 mmol, 43.0 μl | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | (R)-2-((1-((R)-6-(piperidin-1-ylmethyl)-1,2,3,4-tetrahydro-naphthalen-1-yl)-1H-1,2,3-triazol-4-yl)methyl)-1-tosyl-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one | N1(CCCCC1)CC=1C=C2CCC[C@H](C2=CC1)N1N=NC(=C1)C[C@H]1N(C2=C(NC1=O)N=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C33H37N7O3S
